US09212182B2
A vial was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide (147.0 mg, 0.297 mmol), copper(i) iodide (8.48 mg, 0.045 mmol), and Pd(PPh3)4 (34.3 mg, 0.030 mmol). The vial was flushed with Ar (g), then DMF (1484 μl), N,N-diisopropylamine (423 μl, 2.97 mmol), and ethynylcyclopentane (140 mg, 1.484 mmol) were added in sequence. The vial was sealed and heated to 60° C. for 1 h. The mixture was cooled, diluted with EtOAc, washed with 2N aq. HCl (2×), dried over sodium sulfate, filtered, and concentrated. The residue was taken up in DMSO-MeOH and filtered through a 0.2 micron filter. The filtrate was purified by reverse-phase HPLC (25-75 CH3CN/H2O with 0.1% TFA). Fractions containing desired product were combined and lyophilized to give 1-(4-(cyclopentylethynyl)-5-fluoro-2-methoxyphenyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinoxalinesulfonamide (98.2 mg, 65%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ=11.74 (s, 1H), 8.75 (d, J=2.0 Hz, 1H), 8.47 (s, 1H), 8.30 (d, J=2.3 Hz, 1H), 7.90 (dd, J=2.2, 8.8 Hz, 1H), 7.48 (d, J=9.1 Hz, 1H), 7.38 (d, J=6.3 Hz, 1H), 6.95 (d, J=8.9 Hz, 1H), 6.49 (d, J=2.0 Hz, 1H), 3.67 s, 3H), 2.98 (t, J=7.3 Hz, 1H), 2.09-1.98 (m, 2H), 1.80-1.58 (m, 6H). m/z (ESI) 509.2 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide | 0.297 mmol, 147.0 mg | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C18H12BrFN4O5S
reactant | DMF | 1484 μl | CN(C)C=O | C3H7NO
reactant | N,N-diisopropylamine | 2.97 mmol, 423 μl | C(C)(C)NC(C)C | C6H15N
reactant | ethynylcyclopentane | 1.484 mmol, 140 mg | C(#C)C1CCCC1 | C7H10
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(i) iodide | 0.045 mmol, 8.48 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.030 mmol, 34.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-(cyclopentylethynyl)-5-fluoro-2-methoxyphenyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinoxalinesulfonamide | 98.2 mg, 65% | C1(CCCC1)C#CC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C25H21FN4O5S
